US08258131B2
(1) Preparation of 7-hydroxy-2,2,5-trimethyl-3,4-dihydro-2H-chromen-4-one
Anhydrous 5-methylbenzen-1,3-diol (3.678 g), 3,3-dimethylacrylic acid (3.3 mL) and aluminum chloride (14.76 g) were added to phosphoryl chloride (45 mL) and the mixture was shaken at room temperature for 6 hours. The reaction solution was poured into ice, and the precipitates were filtered, washed with water and dried. The precipitates were purified by column chromatography on silica gel (Solvent; petroleum ether/ethyl acetate=25/1) to give the titled compound (3.8 g) as a colorless powder.

reactant | 5-methylbenzen-1,3-diol | 3.678 g | CC=1C=C(C=C(C1)O)O | C7H8O2
reactant | 3,3-dimethylacrylic acid | 3.3 mL | CC(=CC(=O)O)C | C5H8O2
reactant | aluminum chloride | 14.76 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phosphoryl chloride | 45 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-hydroxy-2,2,5-trimethyl-3,4-dihydro-2H-chromen-4-one | 3.8 g | OC1=CC(=C2C(CC(OC2=C1)(C)C)=O)C | C12H14O3
